US07498337B2
5-bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution (80 mL) of [5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol (7.1 g) in acetonitrile were added tetra-n-propylammonium perruthenate (0.63 g), N-methylmorpholine N-oxide hydrate (4.2 g) and molecular sieves 4A powder (3.5 g), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a colorless solid (yield 4.6 g, 71%).

reactant | [5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | 80 mL, 7.1 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)CO | C11H10BrNO3S
reactant | N-methylmorpholine N-oxide hydrate | 4.2 g | O.C[N+]1(CCOCC1)[O-]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | tetra-n-propylammonium perruthenate | 0.63 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-bromo-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 4.6 g, 71% | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C=O | C11H8BrNO3S
